US08859555B2
To a solution of (trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)-N-(2-chloroethyl)cyclopropanamine (500 mg, 1.12 mmol) in dry DMF (5 mL), (R)-tert-butyl pyrrolidin-3-ylcarbamate (438 mg, 2.3 mmol) was added and stirred at RT for 48 h. After completion, the reaction mixture was poured into ice water (20 mL), extracted with EtOAc (2×20 mL). The combined extracts were washed with water (25 mL), brine, dried over anhydrous Na2SO4, filtered and evaporated. The crude residue was purified by column chromatography (SiO2) using MeOH: CHCl3 (4:96) to get tert-butyl(R)-1-(2-((trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate (400 mg, 60.6%) as a white solid.

reactant | (trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)-N-(2-chloroethyl)cyclopropanamine | 1.12 mmol, 500 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)[C@H]1[C@@H](C1)NCCCl | C25H23ClF3NO
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 2.3 mmol, 438 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl(R)-1-(2-((trans)-2-(6-(benzyloxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopropylamino)ethyl)pyrrolidin-3-ylcarbamate | 400 mg, 60.6% | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)C(F)(F)F)[C@H]1[C@@H](C1)NCCN1C[C@@H](CC1)NC(OC(C)(C)C)=O | C34H40F3N3O3
